US07495007B2
To a solution of 5-chlorosalicylaldehyde (5 g, 32 mmol) (Aldrich) in N,N-dimethylformamide (40 mL) was added potassium carbonate (20 g, 145 mmol), and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (10 g, 42 mmol, Aldrich). The reaction mixture was heated at 60° C. for 18 h. The crude was cooled to room temperature, diluted with ethyl acetate, washed with water, brine. The organic layer was separated, concentrated, and the residue was purified by chromatography (EtOAc:Hexanes=1:8, then 1:4) to give 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzaldehyde as a white solid (Yield 10 g, 99%).

reactant | 5-chlorosalicylaldehyde | 32 mmol, 5 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 145 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 42 mmol, 10 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzaldehyde | Yield 10 g, 99% | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)Cl)(C)C | C15H23ClO3Si
